US04518597
6-(4-Phenylsulfinyl-butoxy)-4H-3,1-benzoxazin-2-one
An amount of 4.2 gm (0.0133 mol) of 2-amino-5-(4-phenylsulfinylbutoxy)-benzyl alcohol [prepared from 2-nitro-5-(4-phenylsulfinyl-butoxy)-benzyl alcohol by catalytic hydrogenation] is dissolved in 150 ml of chloroform and mixed with 6.9 gm (0.05 mol) of potassium carbonate. Ten milliliters of a 20% solution of phosgene in toluene is slowly added dropwise to this mixture under stirring. After further stirring for two hours, the solution is washed with water and dried with sodium sulfate, and the solvents are distilled off in vacuo. The residue is recrystallized from ethyl acetate/cyclohexane.

reactant | 2-amino-5-(4-phenylsulfinylbutoxy)-benzyl alcohol | 0.0133 mol, 4.2 gm | NC1=C(CO)C=C(C=C1)OCCCCS(=O)C1=CC=CC=C1 | C17H21NO3S
reactant | potassium carbonate | 0.05 mol, 6.9 gm | C([O-])([O-])=O.[K+].[K+]
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 6-(4-Phenylsulfinyl-butoxy)-4H-3,1-benzoxazin-2-one | C1(=CC=CC=C1)S(=O)CCCCOC=1C=CC2=C(COC(N2)=O)C1 | C18H19NO4S
